Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
___: TEE with Pulmonary Vein Isolation

 
History of Present Illness:
___ with PMHx of afib on eliquis, HTN, HLD who presents with 
syncope. He was sitting at a table drinking a beer around 7PM 
with his friends and he all of a sudden rolled his eyes into the 
back of his head and fell to the floor. His friend witnessed 
apnea and "foaming at mouth" and his wife denies head strike. He 
woke up after about 1.5 min sweating and confused. In the ED he 
reported that he still felt confused in the sense that he cannot 
remember certain things (meds/PMHx, feels dazed). Nothing like 
this has happed to him before but he did have an episode of 
vision changes and chest pain in ___ when he was first 
diagnosed with Afib. He also reports that ~ ___ years ago he 
passed out when he was in a car with his wife and he got up and 
fell over when he got out of the car and passed out but that 
time had a premonition that something was going to happen and 
thought that he may have had seafood poisoning. He has noted 
some palpitations over the past few days but no F/C/N/V or chest 
pain. 

Of note, patient was recently started on flecainide for afib but 
stopped it after a rash appeared (only took for 3 days 
___. However, restarted the medication 2 days ago on 
___ and had been taking it for 2 days. Finally, patient 
reports that he "worked out very hard" at the gym today.

In the ED, initial vitals notable for afebrile, HR 80, BP 
120/84, RR 18, 96% on RA. Documented wxam with RRR, A&Ox3 and 
normal neuro exam. Labs notable for normal Chem 7, CBC with mild 
anemia to 13.6, trop negative x 1. EKG Sinus with PR ~210 but on 
repeat was NSR. CT head obtained with showed paranasal sinus 
disease but was otherwise unremarkable. Patient admitted to 
cardiology for evaluation of syncope. 

On the floor, vss and patient reports he feels back to his 
baseline but is frustrated by the entire situation. He reports 
he feels guilty about his Afib. 
 
Review of systems:  
(+) Per HPI
 
Past Medical History:
Afib
HLD
Possible Pulm Fibrosis
HTN
 
Social History:
___
Family History:
No cardiac hx. Significant for pancreatic cancer in many 
relatives.
 
Physical Exam:
========================
ADMISSION PHYSICAL EXAM
========================
Vital Signs:  97.4; 139/82; 59; 17; 91RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally
Abdomen: Obese. Soft, non-tender, non-distended, bowel sounds 
present, no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, gait deferred.  
.
.
========================
DISCHARGE PHYSICAL EXAM
========================
Vitals: 99.9/98.5   70   110/70   97%RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally
Abdomen: Obese. Soft, non-tender, non-distended, bowel sounds 
present, no organomegaly, no rebound or guarding  
GU: No foley
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. groin access site c/d/I without hematoma or bruit
 
Pertinent Results:
================
ADMISSION LABS
================
___ 07:30PM BLOOD WBC-5.8 RBC-4.68 Hgb-13.6* Hct-39.5* 
MCV-84 MCH-29.1 MCHC-34.4 RDW-12.7 RDWSD-38.4 Plt ___
___ 07:30PM BLOOD Neuts-63.6 ___ Monos-10.3 Eos-3.6 
Baso-1.5* Im ___ AbsNeut-3.71 AbsLymp-1.20 AbsMono-0.60 
AbsEos-0.21 AbsBaso-0.09*
___ 07:30PM BLOOD Glucose-99 UreaN-17 Creat-1.1 Na-140 
K-3.4 Cl-104 HCO3-23 Calcium-8.8 Phos-3.3 Mg-1.8
.
.
======================
PERTINENT COURSE LABS
======================
___ 07:30AM BLOOD TSH-1.8
.
.
================
DISCHARGE LABS
================
___ 03:47AM BLOOD WBC-6.6# RBC-4.25* Hgb-12.4* Hct-36.1* 
MCV-85 MCH-29.2 MCHC-34.3 RDW-12.8 RDWSD-39.3 Plt ___
___ 03:47AM BLOOD Glucose-97 UreaN-12 Creat-0.9 Na-139 
K-3.8 Cl-105 HCO3-24 Calcium-8.4 Phos-3.7 Mg-1.6
.
.
================
IMAGING
================
NCHCT ___
IMPRESSION: 
1. No acute intracranial abnormality. 
2. Paranasal sinus disease. 
.
.
TEE ___:
Conclusions   
--The left atrium and right atrium are normal in cavity size. No 
spontaneous echo contrast or thrombus is seen in the body of the 
left atrium/left atrial appendage or the body of the right 
atrium/right atrial appendage. Right atrial appendage ejection 
velocity is good (>20 cm/s). No atrial septal defect is seen by 
2D or color Doppler. The ascending, transverse and descending 
thoracic aorta are normal in diameter and free of 
atherosclerotic plaque to 30 cm from the incisors. The aortic 
valve leaflets (3) appear structurally normal with good leaflet 
excursion. No aortic regurgitation is seen. The mitral valve 
leaflets are structurally normal. Mild (1+) mitral regurgitation 
is seen. There is no pericardial effusion. 
--IMPRESSION: No spontenous echo contrast or thrombus in the 
___. Mild mitral regurgitation.
 
Brief Hospital Course:
___ with PMHx of afib on eliquis, HTN, HLD who presents with 
syncope.
.
# Syncope - ddx always broad and includes cardiogenic, neuro, 
neurocardiogenic and often based on hx and many cases never 
resolved. This patient's hx concerning for cardiogenic syncopy 
as he had apparent drop attack without prodrome. It is possible 
that patient had side effect from flecainide which in rare cases 
can cause VT/arrythmia. It can also prolong PR interval and PR 
was prolonged on initial EKG and reduced on repeat EKG later in 
ED. Low suspicion for seizure as witnessed and no rhythmic 
shaking or BBI. Also hx inconsistent with vasovagal or 
orthostasis as was sitting when event occurred and no 
premonition. Home flecainide was discontinued, he was monitored 
on telemetry while admitted and remained in sinus rhythm, normal 
rate without any symptoms. He is being discharged with plan for 
event monitor both for syncopal history as well afib (see 
below).
.
# Afib - Patient currently in NSR but per hx sounds that he 
often jumps in and out of afib and is symptomatic with 
palpitations and chest pain when those occur. He was scheduled 
for cardiac MRI on ___ with plan for ablation in ___ with 
Dr. ___. Given syncopal episode PVI/ablation was expedited. He 
underwent uncomplicated PVI. No arrhythmias were evoked so no 
further areas were ablated and etiology of syncope is still 
unknown. His home metoprolol XL 200 was initially fractionated 
to metop tart 50mg Q6H pre-procedure and reduced to 50mg BID 
post-procedure. Home apixiban 5mg BID was continued during 
hospitalization and afterward.
 .
# HLD - cont home Rosuvastatin 5mg qOD

=====================
Transitional Issues
=====================
---Metoprolol has been decreased to 50mg twice a day
---Started omeprazole 20mg daily
---Stopped flecainide
- Will need a heart monitor after discharge, Dr. ___ 
will arrange this
- Will need to follow up with PCP and cardiology as scheduled, 
Dr. ___ office is arranging his own follow-up.
- please encourage cutting down alcohol, as it may contribute to 
Afib
- Full code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rosuvastatin Calcium 5 mg PO QOD 
2. Apixaban 5 mg PO BID 
3. Metoprolol Succinate XL 200 mg PO DAILY 
4. Flecainide Acetate 100 mg PO Q12H 

 
Discharge Medications:
1. Apixaban 5 mg PO BID 
2. Rosuvastatin Calcium 5 mg PO QOD 
3. Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth every day Disp #*30 
Capsule Refills:*3
4. Metoprolol Succinate XL 50 mg PO BID 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*3

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
syncope

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure taking care of you at ___.

Why was I here?
- You fainted and we were concerned this was from an abnormal 
heart rhythm.

What was done while I was here?
- Your heart was monitored.
- You went for a pulmonary vein isolation procedure to help 
decrease future episodes of atrial fibrillation.

What should  I do when I get home?
- Take all your medicines as prescribed:
-Your metoprolol has been decreased to 50mg twice a day
-Take an antacid medicine called omeprazole 20mg daily
-Do not take flecainide anymore
-Limit the amount of alcohol at home, as it is known to worsen 
atrial fibrillation
- You will get a heart monitor after discharge, Dr. ___ 
___ will arrange this for you
- Follow-up with your primary doctor, ___ Dr. ___ 
as scheduled

___ wish you a speedy recovery,
Your ___ Cardiology Team
 
Followup Instructions:
___